US05068325
11i) 2-Amino-6-(3-(3-methyl-2-pyridyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3-(3-methyl-2-pyridyl)allyl chloride hydrochloride and 3 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. Yield: 45% of theory, Melting point: 188°-190° C. (ether).

reactant | 3-(3-methyl-2-pyridyl)allyl chloride hydrochloride | Cl.CC=1C(=NC=CC1)C=CCCl
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 3 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(3-methyl-2-pyridyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 45% | NC=1SC=2CCN(CCC2N1)CC=CC1=NC=CC=C1C | C16H20N4S
